US07691902B2
To a solution of diethyl 2-(4-bromophenyl)-2-methylmalonate (850 mg, 2.6 mmol) in dry THF (5 mL) at 0° C. was added a 1.0M solution of lithium aluminum hydride in THF (2.6 mL, 2.6 mmol). After stirring for 2 h at 0° C., the mixture was quenched by slow addition of water (5 mL). The mixture was made acidic by addition of 1N HCl and was then extracted with dichloromethane (2×20 mL). The organics were combined, dried over Na2SO4 and evaporated to give 2-(4-bromophenyl)-2-methylpropane-1,3-diol (500 mg, 79%) 1H NMR (400 MHz, DMSO-d6) δ 7.47-7.43 (m, 2H), 7.35-7.32 (m, 2H), 4.59-4.55 (m, 2H), 3.56-3.51 (m, 4H), 1.17 (s, 3H).

reactant | diethyl 2-(4-bromophenyl)-2-methylmalonate | 2.6 mmol, 850 mg | BrC1=CC=C(C=C1)C(C(=O)OCC)(C(=O)OCC)C | C14H17BrO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.6 mmol, 2.6 mL | C1CCOC1 | C4H8O
product | 2-(4-bromophenyl)-2-methylpropane-1,3-diol | 500 mg, 79% | BrC1=CC=C(C=C1)C(CO)(CO)C | C10H13BrO2
